US09024018B2
N′-Benzoyl-3-(methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbohydrazide
3-(Methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid (0.73 mmol, 175 mg, 1 eq.), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (EDCI) (0.76 mmol, 146 mg, 1.05 eq.) and benzohydrazide (0.76 mmol, 104 mg, 1.05 eq.) were placed in a round bottom flask and dissolved in acetonitrile (3 mL). A suspension developed 1 minute after starting room temperature stirring and it was stirred for further 90 minutes. The reaction mixture was filtered and the obtained solid washed with water, acetonitrile and ether, and dried under vacuum. The filtrate was poured into ice/water and the filtration, washing and drying steps were repeated. Yield 65%. δH (DMSO-d6) 10.35 (1H, bs), 10.28 (1H, bs), 8.75 (1H, bs), 7.74 (2H, m), 7.37 (3H, m), 5.25 (2H, bs), 2.07 (3H, bs).

reactant | 3-(Methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid | 0.73 mmol, 175 mg, 1 eq. | CSCN1N=NC=2N(C1=O)C=NC2C(=O)O | C7H7N5O3S
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 0.76 mmol, 146 mg, 1.05 eq. | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | benzohydrazide | 0.76 mmol, 104 mg, 1.05 eq. | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N′-Benzoyl-3-(methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbohydrazide | Yield 65% | C(C1=CC=CC=C1)(=O)NNC(=O)C=1N=CN2C1N=NN(C2=O)CSC | C14H13N7O3S
